US07745641B2
In a similar manner to Step 1 of Example 233, 4-hydroxy-7-[1-(tert-butoxycarbonyl)-5-(piperidinomethyl)indol-2-yl]isoindolinone (0.0292 g, 0.0633 mmol) was dissolved in acetonitrile (0.650 mL), and the solution was treated with triethylamine (0.0540 mL, 0.390 mmol) and 5-chloro-1,3-dimethyl-1H-pyrazole-4-sulfonyl chloride (0.0447 g, 0.195 mmol) to obtain 4-(1,3-dimethyl-5-chloro-1H-pyrazol-4-ylsulfonyloxy)-7-[1-(tert-butoxycarbonyl)-5-(piperidinomethyl)indol-2-yl]isoindolinone (0.0120 g, yield 29%).

reactant | 4-hydroxy-7-[1-(tert-butoxycarbonyl)-5-(piperidinomethyl)indol-2-yl]isoindolinone | 0.0633 mmol, 0.0292 g | OC1=C2CNC(C2=C(C=C1)C=1N(C2=CC=C(C=C2C1)CN1CCCCC1)C(=O)OC(C)(C)C)=O | C27H31N3O4
reactant | triethylamine | 0.390 mmol, 0.0540 mL | C(C)N(CC)CC | C6H15N
reactant | 5-chloro-1,3-dimethyl-1H-pyrazole-4-sulfonyl chloride | 0.195 mmol, 0.0447 g | ClC1=C(C(=NN1C)C)S(=O)(=O)Cl | C5H6Cl2N2O2S
solvent | acetonitrile | 0.650 mL | C(C)#N | C2H3N
product | 4-(1,3-dimethyl-5-chloro-1H-pyrazol-4-ylsulfonyloxy)-7-[1-(tert-butoxycarbonyl)-5-(piperidinomethyl)indol-2-yl]isoindolinone | 0.0120 g, yield 29% | CN1N=C(C(=C1Cl)S(=O)(=O)OC1=C2CNC(C2=C(C=C1)C=1N(C2=CC=C(C=C2C1)CN1CCCCC1)C(=O)OC(C)(C)C)=O)C | C32H36ClN5O6S
